US05990105
0.243 g (0.001 mol) of N-(3-amino-5-bromophenyl)-N-methylacetamide was suspended in 5 ml of water, treated with 0.2 ml (0.002 mol) of HCl (37%) and cooled to 0° C. A solution of 0.069 g (0.001 mol) of NaNO2 in 1 ml of water was added thereto, the mixture was stirred at 0° C. for 5 min. and subsequently at room temperature for 10 min. and finally treated with a suspension of 0.35 g (0.0025 mol) of thiophenol sodium salt. The reaction mixture was treated in an ultrasound bath for 10 min. and subsequently partitioned in water/ethyl acetate. The organic phase was washed with sat. sodium chloride solution, dried over MgSO4 filtered and freed from solvent. The residue was then heated to 120-130° C. for 20 min., taken up in ethyl acetate and chromatographed on silica gel with ethyl acetate/hexane 1:9 and 1:2. There was obtained 0.085 g (21%) of N-(3-bromo-5-phenylsulphanylphenyl)-N-methylacetamide as a yellow oil. MS (EI): me/e=337, 335 (C15H14BrNOS+).

reactant | N-(3-amino-5-bromophenyl)-N-methylacetamide | 0.001 mol, 0.243 g | NC=1C=C(C=C(C1)Br)N(C(C)=O)C | C9H11BrN2O
reactant | HCl | 0.002 mol, 0.2 ml | Cl | ClH
reactant | NaNO2 | 0.001 mol, 0.069 g | N(=O)[O-].[Na+]
reactant | thiophenol sodium salt | 0.0025 mol, 0.35 g | [Na].C1(=CC=CC=C1)S
solvent | water | 5 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | N-(3-bromo-5-phenylsulphanylphenyl)-N-methylacetamide | 0.085 g, 21% | BrC=1C=C(C=C(C1)SC1=CC=CC=C1)N(C(C)=O)C | C15H14BrNOS
